US05786356
(S)-3-(2-Amino-3-nitrophenoxy)-1,2-epoxypropane
A solution of 2-amino-3-nitrophenol (5.95 g, 38.6 mmol) and (2S)-(+)-glycidyl 3-nitrobenzenesulfonate (10.0 g, 38.6 mmol) in 150 mL of acetone was treated with 1.1 equivalents of K2CO3 (5.86 g, 42.4 mmol) and stirred at reflux for 18 hours. The suspension was cooled to ambient temperature; the solids were filtered; and the filtrate concentrated in vacuo to dryness. The resulting solids were partitioned between chloroform and water, and the aqueous layer extracted once with chloroform. The organic layers were combined and dried over Na2 SO4 and concentrated in vacuo to 8.0 g (99%) of an orange solid. TLC (Rf =0.5, CHCl13) and NMR indicated >95% purity, so the material was used without further purification. NMR.

reactant | 2-amino-3-nitrophenol | 38.6 mmol, 5.95 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | (2S)-(+)-glycidyl 3-nitrobenzenesulfonate | 38.6 mmol, 10.0 g | C1[C@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | K2CO3 | 42.4 mmol, 5.86 g, 1.1 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | (S)-3-(2-Amino-3-nitrophenoxy)-1,2-epoxypropane | NC1=C(OC[C@@H]2CO2)C=CC=C1[N+](=O)[O-] | C9H10N2O4
